US08138181B2
Step 2B: Preparation of 7-(2-methoxyethoxy)imidazo[1,2-a]pyridine-3-carboxylic acid:
To ethyl 7-(2-methoxyethoxy)imidazo[1,2-a]pyridine-3-carboxylate (5.01 g, 19.0 mmol) in THF/EtOH (32/6 mL) was added lithium hydroxide (37.9 ml, 37.9 mmol), and the reaction was stirred overnight. HCl (57 mmol, 2M in ether) was added to the mixture, followed by concentration to give the desired product.

reactant | ethyl 7-(2-methoxyethoxy)imidazo[1,2-a]pyridine-3-carboxylate | 19.0 mmol, 5.01 g | COCCOC1=CC=2N(C=C1)C(=CN2)C(=O)OCC | C13H16N2O4
reactant | lithium hydroxide | 37.9 mmol, 37.9 ml | [OH-].[Li+]
reactant | HCl | 57 mmol, 2M | Cl | ClH
solvent | THF EtOH | 6 mL | C1CCOC1.CCO
product | 7-(2-methoxyethoxy)imidazo[1,2-a]pyridine-3-carboxylic acid | COCCOC1=CC=2N(C=C1)C(=CN2)C(=O)O | C11H12N2O4
